US09402841B2
Step B: 6-chloro-4-methylpicolinonitrile
A mixture of 2-cyano-4-methylpyridine-1-oxide (4.03 g, 30 mmol) in phosphoryl trichloride (80 mL, 858 mmol) was heated to reflux overnight. The solvent was removed in vacuo. The residue was treated with ice and its pH made basic using saturated NaOH solution at 0° C. The aqueous layer was extracted with DCM (3×). The organic layers were combined, dried over MgSO4, filtered, and evaporated in vacuo to give the title compound (3.7 g, 81%). ESI-MS m/z [M+H]+ 153.6.

reactant | 2-cyano-4-methylpyridine-1-oxide | 30 mmol, 4.03 g | C(#N)C1=[N+](C=CC(=C1)C)[O-] | C7H6N2O
reactant | phosphoryl trichloride | 858 mmol, 80 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-4-methylpicolinonitrile | 3.7 g, 81% | ClC1=CC(=CC(=N1)C#N)C | C7H5ClN2
